US07601714B2
(2-Chloro-3-dimethylamino-phenyl)-methanol (0.50 g, 2.69 mmol) was placed in a round bottomed flask with dichloromethane (10 mL) and cooled to 0° C. Triethylamine (0.68 g, 6.73 mmol), methanesulfonylchloride (0.23 mL, 2.97 mmol), and dimethylaminopyridine (0.02 g) were added and the reaction was allowed to warm and stir at rt over 3 h. The reaction was diluted with dichloromethane (20 mL) and washed with 1N Hydrochloric acid (10 mL), 10% aqueous sodium bicarbonate (10 mL), and water (10 mL). The organics were dried (MgSO4) and concentrated to afford methanesulfonic acid 2-chloro-3-dimethylamino-benzyl ester.

reactant | (2-Chloro-3-dimethylamino-phenyl)-methanol | 2.69 mmol, 0.50 g | ClC1=C(C=CC=C1N(C)C)CO | C9H12ClNO
reactant | Triethylamine | 6.73 mmol, 0.68 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 2.97 mmol, 0.23 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethylaminopyridine | 0.02 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methanesulfonic acid 2-chloro-3-dimethylamino-benzyl ester | ClC1=C(COS(=O)(=O)C)C=CC=C1N(C)C | C10H14ClNO3S
